US07531532B2
4-(Azetidin-1-yl)piperidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide
After adding potassium thiocyanate (65.3 mg) and acetonitrile (4 ml) to 2-(4-fluorophenyl)acetyl chloride (58 mg) under a nitrogen atmosphere, the mixture was stirred for 2 hours at 60° C. The reaction mixture was cooled to room temperature, and then ethyl acetate (30 ml) and saturated aqueous sodium hydrogencarbonate (20 ml) were added to the reaction mixture and stirring was continued for 30 minutes. After partitioning the reaction mixture, the separated organic layer was washed with saturated aqueous sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to provide a crude product of 2-(4-fluorophenyl)acetyl isothiocyanate as a yellow oil. After dissolving 4-(azetidin-1-yl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (70 mg) in ethanol (2 ml), D-10-camphorsulfonic acid (43 mg) was added and the mixture was stirred for 5 minutes under a nitrogen atmosphere. Then, 2-(4-fluorophenyl)acetyl isothiocyanate-acetonitrile (0.5 ml×3) was added and the mixture was stirred for 2 hours. Ethyl acetate (30 ml) and saturated aqueous sodium hydrogencarbonate (20 ml) were added to the reaction mixture for partition, and the organic layer was washed with saturated aqueous sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) and then dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:5), and then fractions containing the target compound were concentrated under reduced pressure. Diethyl ether (0.5 ml) and hexane (4 ml) were added to the resultant residue to produce a suspension of the solid. After filtering the solid, it was subjected to aeration drying to provide the title compound (36.9 mg, 37.8%) as white powder.

reactant | 4-(azetidin-1-yl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 70 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCC2)C=C1)F | C19H23FN6O2
reactant | D-10-camphorsulfonic acid | 43 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | 2-(4-fluorophenyl)acetyl isothiocyanate acetonitrile | 0.5 ml | FC1=CC=C(C=C1)CC(=O)N=C=S.C(C)#N
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-(Azetidin-1-yl)piperidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide | 36.9 mg, 37.8% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCC2)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C28H29F2N7O3S
